US05175162
A suspension of 2.0 g of 4-oxo-4,5,6,7-tetrahydrothieno[2,3-b]thiepin-5-acetic acid and 0.6 g of hydrazine hydrate in 20 ml of ethanol is refluxed under heating for 5 hours. After cooling, the precipitated crystals are collected by filtration and recrystallized from a mixed solvent of chloroform and ethanol to give 1.4 g of 4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 215°-217° C.

reactant | 4-oxo-4,5,6,7-tetrahydrothieno[2,3-b]thiepin-5-acetic acid | 2.0 g | O=C1C2=C(SCCC1CC(=O)O)SC=C2 | C10H10O3S2
reactant | hydrazine hydrate | 0.6 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 1.4 g | N=1NC(CC2C1C1=C(SCC2)SC=C1)=O | C10H10N2OS2
